US09278983B2
To a mixture of N-(2-hydroxy-5-trifluoromethylphenyl)-2-methylsulfanylbenzamide (0.33 g), triphenylphosphine (0.34 g), and THF (7 ml), diethyl azodicarboxylate (40% in toluene) (0.57 g) was added dropwise, and stirred at room temperature for 1.5 hours. Triphenylphosphine (79 mg) and diethyl azodicarboxylate (40% in toluene. 0.13 g) were added to the mixture, and stirred for further 1 hour. The mixture was heated to 50° C., and stirred for 1.5 hours. The reaction mixture was cooled to room temperature, and then the mixture was allowed to stand at room temperature overnight. The reaction mixture was subjected to silica gel column chromatography to give 0.28 g of 2-(2-methylsulfanylphenyl)-5-trifluoromethylbenzoxazole (hereinafter referred to as Present Compound 77).

reactant | N-(2-hydroxy-5-trifluoromethylphenyl)-2-methylsulfanylbenzamide | 0.33 g | OC1=C(C=C(C=C1)C(F)(F)F)NC(C1=C(C=CC=C1)SC)=O | C15H12F3NO2S
reactant | triphenylphosphine | 0.34 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.57 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | Triphenylphosphine | 79 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.13 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 7 ml | C1CCOC1 | C4H8O
product | 2-(2-methylsulfanylphenyl)-5-trifluoromethylbenzoxazole | 0.28 g | CSC1=C(C=CC=C1)C=1OC2=C(N1)C=C(C=C2)C(F)(F)F | C15H10F3NOS
